US07737135B2
a) Methyl (4-chloro-2-iodophenoxy)acetate
A mixture of 5-chloro-2-iodophenol (4.95 g), methyl bromoacetate (1.85 ml) and potassium carbonate (2.79 g) in acetonitrile (20 ml) was heated under reflux for 2 h. Aq HCl was added and the mixture was extracted with ether (three times). The organic extracts were dried (MgSO4), evaporated and purified by chromatography (silica, petrol ether as eluent) to give the sub-title compound (5.75 g).

reactant | 5-chloro-2-iodophenol | 4.95 g | ClC=1C=CC(=C(C1)O)I | C6H4ClIO
reactant | methyl bromoacetate | 1.85 ml | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 2.79 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Methyl (4-chloro-2-iodophenoxy)acetate | 5.75 g | ClC1=CC(=C(OCC(=O)OC)C=C1)I | C9H8ClIO3
